US06492348B1
(2R,3R,4S,5S)-2-(6-{[(1S,2S)-2-hydroxycyclopentyl]amino}-9H-purin-9-yl)-5-[3-(hydroxymethyl)isoxazol-5-yl]tetrahydrofuran-3,4-diol
To a solution of (2R,3R,4R,5S)-4-(acetyloxy)-5-{3-[(acetyloxy)methyl]isoxazol-5-yl}-2-(6-chloro-9H-purin-9-yl)tetrahydrofuran-3-yl acetate (20 mg) in isopropyl alcohol (2 ml) was added N,N-diisopropylethylamine (0.043 ml) and 2-hydroxycyclopentylamine hydrochloride (11.4 mg). The mixture was stirred at 50° C., under nitrogen for 18 h, cooled and evaporated to dryness in vacuo. The resulting residue was purified by automated preparative HPLC (gradient profile 5%-90% (ii) over 20 min) to give the intermediate triacetoxy protected product. To this residue was added methanol (1 ml) and t-butylamine (0.013 ml) and the mixture was stirred at 0° C. for 3 hours. The solvent evaporated in vacuo to yield title compound as a white solid (5 mg).

reactant | (2R,3R,4R,5S)-4-(acetyloxy)-5-{3-[(acetyloxy)methyl]isoxazol-5-yl}-2-(6-chloro-9H-purin-9-yl)tetrahydrofuran-3-yl acetate | 20 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C)=O)C1=CC(=NO1)COC(C)=O)N1C2=NC=NC(=C2N=C1)Cl | C19H18ClN5O8
reactant | N,N-diisopropylethylamine | 0.043 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-hydroxycyclopentylamine hydrochloride | 11.4 mg | Cl.OC1C(CCC1)N
reactant | t-butylamine | 0.013 ml | C(C)(C)(C)N | C4H11N
solvent | isopropyl alcohol | 2 ml | C(C)(C)O | C3H8O
solvent | methanol | 1 ml | CO | CH4O
product | (2R,3R,4S,5S)-2-(6-{[(1S,2S)-2-hydroxycyclopentyl]amino}-9H-purin-9-yl)-5-[3-(hydroxymethyl)isoxazol-5-yl]tetrahydrofuran-3,4-diol | 5 mg | O[C@@H]1[C@H](CCC1)NC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)C1=CC(=NO1)CO | C18H22N6O6
